US07041687B2
3-Amino-5-nitroindazole-1-carboxylic acid tert-butyl ester:
Dimethylaminopyridine (4 g, 36 mmol) was added to a solution of 5-nitro-1H-indazol-3-ylamine (32.2 g, 181 mmol), tert-butyldicarbonate (39.4 g, 181 mmol) and triethylamine (25 mL, 181 mmol) in THF (1 L) at room temperature under nitrogen. After stirring for 30 minutes, the reaction mixture was concentrated and the residue partitioned between EtOAc and saturated ammonium chloride solution. The layers were separated and the organic phase washed with brine, dried (MgSO4), and concentrated to an orange solid. Recrystallisation from ethyl acetate provided the title product as a yellow solid (25 g, 50%). 1H NMR (400 MHz, DMSO) 1.60 (9H, s), 6.75 (2H, brs), 8.10 (1H, d), 8.36 (1H, d), 8.96 (1H, s); MS (ES−) m/e=277.

reactant | Dimethylaminopyridine | 36 mmol, 4 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 5-nitro-1H-indazol-3-ylamine | 181 mmol, 32.2 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)N | C7H6N4O2
reactant | tert-butyldicarbonate | 181 mmol, 39.4 g | C(C)(C)(C)OC(=O)OC(=O)[O-]
reactant | triethylamine | 181 mmol, 25 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 3-Amino-5-nitroindazole-1-carboxylic acid tert-butyl ester | 25 g, 50% | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])N | C12H14N4O4
